US08710043B2
Step 1. Ethyl 5-hydroxynicotinate
To a stirred mixture of 5-hydroxynicotinic acid (25 g, 0.1797 mol, Combi Blocks) in EtOH (500 mL) was added a catalytic amount of conc. H2SO4. The resulting reaction mixture was stirred for 12 h at 110° C. After completion of the reaction (monitored by TLC, 10% MeOH in CHCl3), EtOH was removed under reduced pressure and the reaction mixture was quenched with sat'd NaHCO3 solution (50 mL) and extracted with EtOAc (50 mL×3). The combined organic layers were dried over anhydrous sodium sulfate and concentrated under reduced pressure to afford the title compound as a solid. 1H NMR (400 MHz, CDCl3) δ: 11.00 (br.s., 1H), 8.74 (s, 1H), 8.42 (d, J=2.1 Hz, 1H), 7.90 (t, J=3.9 Hz, 1H), 4.43 (q, J=7.2 Hz, 2H), 1.43 (t, J=6.9 Hz, 3H). MS (ESI, positive ion) m/z: 168 (M+H).

reactant | 5-hydroxynicotinic acid | 0.1797 mol, 25 g | OC=1C=NC=C(C(=O)O)C1 | C6H5NO3
reactant | H2SO4 | OS(=O)(=O)O | H2O4S
reactant | MeOH | CO | CH4O
reactant | EtOH | 500 mL | CCO | C2H6O
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | Ethyl 5-hydroxynicotinate | OC=1C=NC=C(C(=O)OCC)C1 | C8H9NO3
